US03946049
A. 5-(p-Benzyloxyphenyl)-2-furaldehyde
A mixture of 236 g (1.0 mole) of p-benzyloxyaniline hydrochloride in 1.5 l of water and 230 ml of conc. HCl was warmed on a steam bath for 11/2 hours. No solution was effected. The mixture was then cooled down to 0°-5° and a solution of 76 g (1.1 mole) of sodium nitrite in 500 ml of water was added in about 1 hour while keeping the temperature at 4°-7°. The mixture was allowed to stir further for an additional 45 minutes while the temperature gradually rose to 10°. Furfural (192 g, 2 moles) and 55 g of cupric chloride dihydrate in a minimum amount of water was added and the mixture was allowed to stir at ambient temperature overnight. Solid started to separate after 2 days of stirring. The solid was collected, washed well with water. The filtrate and the water washings were combined and allowed to stir for an additional 4 days while more solid separated. The dark gummy solids were combined, triturated with ether, filtered and air dried. Repeated recrystallizations from hot cyclohexane gave 48.5 g (17.5%).

reactant | p-benzyloxyaniline hydrochloride | 1.0 mole, 236 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | sodium nitrite | 1.1 mole, 76 g | N(=O)[O-].[Na+]
reactant | Furfural | 2 moles, 192 g | C(C1=CC=CO1)=O | C5H4O2
solvent | water | 1.5 l | O | H2O
solvent | HCl | 230 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 5-(p-Benzyloxyphenyl)-2-furaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(O1)C=O | C18H14O3
